US08685970B2
A mixture of 2-(2-chloropyridin-4-yl)quinoline-8-carboxylic acid (285 mg, 1.0 mmol), thiazol-2-amine (100 mg, 1.0 mmol), HATU (760 mg, 2.0 mmol) and DIPEA (258 mg, 2.0 mmol) in DMF (10 mL) was stirred at 50° C. for 10 hours. The mixture was cooled to room temperature and water (20 mL) was added. The mixture was extracted with ethyl acetate (3×25 mL), and the organic layer was dried over anhydrous Na2SO4, concentrated in vacuo and purified by chromatography on silica gel (5% Methanol in CH2Cl2) to give 2-(2-chloropyridin-4-yl)-N-(thiazol-2-yl)quinoline-8-carboxamide (290 mg, 79% yield).

reactant | 2-(2-chloropyridin-4-yl)quinoline-8-carboxylic acid | 1.0 mmol, 285 mg | ClC1=NC=CC(=C1)C1=NC2=C(C=CC=C2C=C1)C(=O)O | C15H9ClN2O2
reactant | thiazol-2-amine | 1.0 mmol, 100 mg | S1C(=NC=C1)N | C3H4N2S
reactant | HATU | 2.0 mmol, 760 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.0 mmol, 258 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 2-(2-chloropyridin-4-yl)-N-(thiazol-2-yl)quinoline-8-carboxamide | 290 mg, 79% yield | ClC1=NC=CC(=C1)C1=NC2=C(C=CC=C2C=C1)C(=O)NC=1SC=CN1 | C18H11ClN4OS
